US07834030B2
800 mg 4-Fluoro-2-vinyl-benzonitrile were dissolved in 5 ml methanol. 80 mg palladium (10% on charcoal) were added and the reaction was stirred under a hydrogen atmosphere for one hour. The catalyst was filtered off trough a pad of celite. The filtrate was evaporated to obtain 625 mg 2-Ethyl-4-fluoro-benzonitrile.

reactant | 4-Fluoro-2-vinyl-benzonitrile | 800 mg | FC1=CC(=C(C#N)C=C1)C=C | C9H6FN
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium | 80 mg | [Pd] | Pd
product | 2-Ethyl-4-fluoro-benzonitrile | 625 mg | C(C)C1=C(C#N)C=CC(=C1)F | C9H8FN
